US09034880B2
Preparation of 5-(2-(4-fluorophenyl)propyl)-2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole (Compound 456)
A mixture of compound 5-((Z)-2-(4-fluorophenyl)prop-1-enyl)-2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole and 5-(2-(4-fluorophenyl)allyl)-2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole (of ratio 1:3, 1.8 g, 5.38 mmol, 1 equiv) were shaken in a 250 ml Parr Shaker vessel with 180 mg of Pd/C in 50 ml of Methanol/acetic acid (10:1) mixture for 18 hours under 60 psi H2. It was filtered over a celite bed with methanol and evaporated under vacuum. The residue was diluted with ethyl acetate (500 ml) and washed with 50 ml of satd. sodium bicarbonate solution and then brine. The organic part was concentrated under reduced pressure and column purified over 100-200 silica gel using 0 to 50% ethyl acetate in hexanes as eluant, at an interval of 5%. Yield: 685 mg (38%).

reactant | 5-((Z)-2-(4-fluorophenyl)prop-1-enyl)-2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | FC1=CC=C(C=C1)\C(=C/N1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)\C | C22H23FN2
reactant | 5-(2-(4-fluorophenyl)allyl)-2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | 5.38 mmol, 1.8 g, 1 equiv | FC1=CC=C(C=C1)C(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)=C | C22H23FN2
solvent | Methanol acetic acid | 50 ml | CO.C(C)(=O)O
catalyst | Pd/C | 180 mg | [Pd] | Pd
product | 5-(2-(4-fluorophenyl)propyl)-2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | FC1=CC=C(C=C1)C(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)C | C22H25FN2
